US09403818B2
Preparation of methyl 8-(3-methyl-4-(methylamino)phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(3-methyl-4-(methylamino)phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (100 mg, 0.34 mmol) and N,2-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (101.5 mg, 0.41 mmol). The residue was rinsed with DCM and dried in a vacuum stove to afford the title compound as a yellow solid (50 mg, 39%).

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.34 mmol, 100 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | N,2-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 0.41 mmol, 101.5 mg | CNC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C14H22BNO2
product | methyl 8-(3-methyl-4-(methylamino)phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 50 mg, 39% | CC=1C=C(C=CC1NC)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C23H24N2O3
